US07923573B2
4-Methoxythiobenzamide (1.62 g, 9.7 mmol) and ethyl 3-bromo-4-oxobutanoate (2.02 g, 9.7 mmol) were suspended in 1,2-dichloroethane (25 ml), and the mixture was heated under reflux for 3 hours. The reaction mixture was diluted with ethyl acetate, successively washed with a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by removing the solvent under reduced pressure was purified by silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=2/1) to give ethyl [2-(4-methoxyphenyl)-1,3-thiazol-5-yl]acetate (1.79 g, yield: 67%).

reactant | 4-Methoxythiobenzamide | 9.7 mmol, 1.62 g | COC1=CC=C(C(=S)N)C=C1 | C8H9NOS
reactant | ethyl 3-bromo-4-oxobutanoate | 9.7 mmol, 2.02 g | BrC(CC(=O)OCC)C=O | C6H9BrO3
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl [2-(4-methoxyphenyl)-1,3-thiazol-5-yl]acetate | 1.79 g, yield: 67% | COC1=CC=C(C=C1)C=1SC(=CN1)CC(=O)OCC | C14H15NO3S
